US05098923
d) 4-[3,3-bis(3,5-dimethylphenyl)propyl]-1H-imidazole
2,0 g of 1-benzyl-5-[3,3-bis(3,5-dimethylphenyl)propyl]-1H-imidazole hydrochloride is hydrogenated in the mixture of 30 ml of 2N hydrochloric acid and 10 ml ethanol at 80° C. Pd/C (10%) as catalyst. When the uptake of hydrogen ceases, the reaction mixture is cooled, filtered and evaporated to dryness. Water is added and the mixture is made alkaline with sodium hydroxide. The product is then extracted to ethylacetate which is washed with water, dried with sodium sulfate and evaporated to dryness. The residue is the product as base and it is made to its hydrochloride salt in ethyl acetate using dry hydrochloric acid. Yield 0,6 g. M.p. of the product is 101°-105° C.

reactant | 1-benzyl-5-[3,3-bis(3,5-dimethylphenyl)propyl]-1H-imidazole hydrochloride | 2,0 g | Cl.C(C1=CC=CC=C1)N1C=NC=C1CCC(C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[3,3-bis(3,5-dimethylphenyl)propyl]-1H-imidazole | CC=1C=C(C=C(C1)C)C(CCC=1N=CNC1)C1=CC(=CC(=C1)C)C | C22H26N2
